US06159971
Methyl 5-Methoxy-8-nitro-1,2,3,4-tetrahydronaphthalene-2-carboxylate
Methyl 5-Methoxy-1,2,3,4-tetrahydronaphthalene-2-carboxylate (1.1 g, 5 mmol; described in: Johnson, D. W.; Mander, L. N. Aust.J Chem. 1974, 8, 1277-1286) dissolved in acetic anhydride (20 mL), was treated with 70% nitric acid (0.4 mL) at 0° C. for 1 h and the mixture was poured into ice-water and diethyl ether. The organic phase was separated, evaporated in vacuo and the residue triturated with diisopropyl ether to yield 0.27 g (20%) of the title compound as crystals: mp 100-104° C.; EIMS (70 eV) m/z (relative intensity) 265 (35, M+).

reactant | Methyl 5-Methoxy-1,2,3,4-tetrahydronaphthalene-2-carboxylate | 5 mmol, 1.1 g | COC1=C2CCC(CC2=CC=C1)C(=O)OC | C13H16O3
reactant | nitric acid | 0.4 mL | [N+](=O)(O)[O-] | HNO3
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | acetic anhydride | 20 mL | C(C)(=O)OC(C)=O | C4H6O3
product | Methyl 5-Methoxy-8-nitro-1,2,3,4-tetrahydronaphthalene-2-carboxylate | 0.27 g, 20% | COC1=C2CCC(CC2=C(C=C1)[N+](=O)[O-])C(=O)OC | C13H15NO5
